US04329347
6-[4-(2-Quinolyl-sulfinyl)-butoxy]-carbostyril
Prepared analogous to Example 123 from 6-[4-(2- quinolyl-mercapto)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(2- quinolyl-mercapto)-butoxy]-carbostyril | N1=C(C=CC2=CC=CC=C12)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C22H20N2O2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(2-Quinolyl-sulfinyl)-butoxy]-carbostyril | N1=C(C=CC2=CC=CC=C12)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C22H20N2O3S
